US08278482B2
4-Methyl-4-nitropentyl methanesulfonate
Anhydrous DCM (200 mL) was added via canula to a flask containing 4-methyl-4-nitropentanol (12.0 g, 81.8 mmol) under a nitrogen atmosphere. The solution was cooled in an ice bath for 15 minutes and triethylamine (17.1 mL, 1.5 equiv, 123 mmol) was added followed by the addition of methanesulfonyl chloride (8.23 mL, 1.3 equiv, 106 mmol) via syringe over one min. The mixture was stirred for 1 h at 0° C. Then water (100 mL) was added and the layers were separated. The organic layer was washed with 1 M HCl (100 mL), saturated NaHCO3 solution (100 mL) and brine (100 ml). The organic layer was dried over anhydrous MgSO4, filtered, and concentrated under reduced pressure to give a liquid which crystallized upon addition of a mixture of 20% EA in hexanes (50 mL). The solid was filtered and dried under high vacuum to give a white solid (14.3 g, 78%). 1H NMR (CDCl3, 400 MHz): δ 1.61 (s, 6H), 1.73-1.77 (m, 2H), 2.02-206 (m, 2H), 3.02 (s, 3H), 4.23 (t, 2H). LRMS (ESI+) for C7H15NO5S (225.1); Found: 226 (MH+).

reactant | DCM | 200 mL | C(Cl)Cl | CH2Cl2
reactant | 4-methyl-4-nitropentanol | 81.8 mmol, 12.0 g | CC(CCCO)(C)[N+](=O)[O-] | C6H13NO3
reactant | triethylamine | 123 mmol, 17.1 mL, 1.5 equiv | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 106 mmol, 8.23 mL, 1.3 equiv | CS(=O)(=O)Cl | CH3ClO2S
solvent | water | 100 mL | O | H2O
product | 4-Methyl-4-nitropentyl methanesulfonate | 14.3 g, 78% | CS(=O)(=O)OCCCC(C)([N+](=O)[O-])C | C7H15NO5S
